US04532270
Preparation of N-(3-Ethynylphenyl) phthalimide
To a reaction apparatus as described in Example 1 which was maintained under a positive pressure of argon was added 20 g (0.171 mole) APA and 125 ml of DMA. To this stirred solution was slowly added 25.3 g (0.171 mole) phthalic anhydride at such a rate as to maintain the temperature of the mixture below 50° C. The mixture was then stirred for 1 hour at room temperature. Seventy (70) ml of toluene was added to the flask and the mixture was heated to azeotropic distillation to remove the water of imidization. When no further water was collected the remainder of the toluene was distilled. The reaction solution (at 50° C.) was poured into 1500 ml of distilled water. The imide (V) precipitated, was filtered, washed with water, and then dried in an air circulating oven at 95° C. overnight to yield 39.5 g (0.160 mole, 93% theoretical). The imide had a melting point of 197°-198° C. (387° F.). IR (KBr) analysis: 3280 cm-1 (--C≡CH), 1780 and 1720 cm-1 (imide C=0 ).

reactant | DMA | 125 ml | CC(=O)N(C)C | C4H9NO
reactant | phthalic anhydride | 0.171 mole, 25.3 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | KBr | [K+].[Br-]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(3-Ethynylphenyl) phthalimide | C(#C)C=1C=C(C=CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C16H9NO2
